US06313312B1
3-Benzyl-6-methyl-6-(3-pyridinyl)-3-azabicyclo[3.1.0]hexane-2,4-dione
1-(3-Pyridinyl)-1-ethanone hydrazone (Preparation 76, 5.0 g, 40.0 inmol) was dissolved in dioxan (250 ml) and manganese dioxide (6.4 g, 40.0 mmol) was added portionwise followed by a saturated solution of potassium hydroxide in ethanol (2 ml). The reaction mixture was stirred at room temperature for 4 h and then filtered through a pad of Celite®. The filtrate was added to 1-benzyl-1H-pyrrole-2,5-dione (7.5 g, 40.0 mmol) and the reaction mixture was stirred for 16 h at room temperature and was then refluxed for 72 h. The reaction mixture was concentrated in vacuo and the residue was suspended in methanol and filtered to give the title compound as a white solid (3 g, 25%).

reactant | 1-(3-Pyridinyl)-1-ethanone hydrazone | 5.0 g | N1=CC(=CC=C1)C(C)=NN | C7H9N3
reactant | potassium hydroxide | [OH-].[K+]
reactant | 1-benzyl-1H-pyrrole-2,5-dione | 40.0 mmol, 7.5 g | C(C1=CC=CC=C1)N1C(C=CC1=O)=O | C11H9NO2
solvent | dioxan | 250 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
catalyst | manganese dioxide | 40.0 mmol, 6.4 g | [O-2].[O-2].[Mn+4]
product | 3-Benzyl-6-methyl-6-(3-pyridinyl)-3-azabicyclo[3.1.0]hexane-2,4-dione | 3 g, 25% | C(C1=CC=CC=C1)N1C(C2C(C2C1=O)(C=1C=NC=CC1)C)=O | C18H16N2O2
